US08729117B2
A mixture of 4-amino-3-nitrobenzonitrile (63.3 g, 388 mmol) in 1,4-dioxane (600 mL) and anhydrous ethanol (600 mL) was cooled in an ice water bath to 0-5° C. and treated with gaseous HCl for 1.5 h. The reaction mixture was tightly sealed and allowed to warm up to room temperature with stirring for 18 h. The flask was then carefully unsealed and the reaction mixture was diluted with anhydrous diethyl ether (about 2.4 L) until a cloudy solution was obtained. A minimum amount of absolute ethanol required to give a clear solution was then added, and the resulting solution stirred until crystals of 4-amino-3-nitro-benzimidic acid ethyl ester were observed. Ether was then cautiously added to complete the crystallization process and the suspension was allowed to stand for about 30 minutes. The crystals were filtered and washed with dry diethyl ether, then allowed to dry under aspirator vacuum. The crystals were dried in vacuo to give 4-amino-3-nitro-benzimidic acid ethyl ester hydrochloride (84.6 g) as off-white crystals.

reactant | 4-amino-3-nitrobenzonitrile | 388 mmol, 63.3 g | NC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C7H5N3O2
reactant | HCl | Cl | ClH
reactant | 4-amino-3-nitro-benzimidic acid ethyl ester | C(C)OC(C1=CC(=C(C=C1)N)[N+](=O)[O-])=N | C9H11N3O3
solvent | 1,4-dioxane | 600 mL | O1CCOCC1 | C4H8O2
solvent | ethanol | 600 mL | C(C)O | C2H6O
solvent | diethyl ether | about 2.4 L | C(C)OCC | C4H10O
solvent | Ether | CCOCC | C4H10O
product | 4-amino-3-nitro-benzimidic acid ethyl ester hydrochloride | 84.6 g | Cl.C(C)OC(C1=CC(=C(C=C1)N)[N+](=O)[O-])=N | InChI=1S/C9H11N3O3.ClH/c1-2-15-9(11)6-3-4-7(10)8(5-6)12(13)14;/h3-5,11H,2,10H2,1H3;1H
